US04431808
Triethylbenzylammonium chloride (3.6 g) is added to a solution of 39.9 g of crude 2-chloro-5-(trifluoromethylthio) benzyl alcohol in 400 ml of dichloromethane and the mixture is treated dropwise at 15°-20° C. with a solution of 20.6 g of potassium dichromate in 270 ml of water containing 135 ml of sulfuric acid. The mixture is stirred for 4 hours at room temperature and allowed to stand overnight. The aqueous layer is then separated and the organic layer washed with water and a 5% sodium hydroxide solution, dried with magnesium sulfate and evaporated. The residue is distilled in vacuo. There are obtained 34.1 g of crude 2-chloro-5-(trifluoromethylthio)benzaldehyde boiling at 120°-130° C./2 kPa. According to the 1H-NMR spectrum the product consists of approximately 80% of the named compound and the remainder is the position isomer. In this state the substance is suitable for further processing.

reactant | 2-chloro-5-(trifluoromethylthio) benzyl alcohol | 39.9 g | ClC1=C(CO)C=C(C=C1)SC(F)(F)F | C8H6ClF3OS
reactant | potassium dichromate | 20.6 g | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[K+].[K+]
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
catalyst | Triethylbenzylammonium chloride | 3.6 g | [Cl-].C(C)[N+](CC1=CC=CC=C1)(CC)CC
solvent | dichloromethane | 400 ml | ClCCl | CH2Cl2
solvent | water | 270 ml | O | H2O
product | 2-chloro-5-(trifluoromethylthio)benzaldehyde | 34.1 g | ClC1=C(C=O)C=C(C=C1)SC(F)(F)F | C8H4ClF3OS
